US08957102B2
(Step 2) 1,2-dimethyl-3-oxo-5-phenyl-2,3-dihydro-1H-pyrazole-4-carbaldehyde
N,N-Dimethylformamide (3.4 mL, 43.6 mmol) was added to a flask under nitrogen atmosphere. After cooling to 0° C., phosphorus oxychloride (1.4 mL, 15.2 mmol) was added. The resulting reaction mixture was stirred at room temperature for 50 minutes. The resulting reaction mixture was transferred to a reaction flask containing a solution of 1,2-dimethyl-5-phenyl-1H-pyrazol-3(2H)-one (820 mg, 4.36 mmol) in DMF (4.9 mL). The reaction flask was immersed in a preheated oil bath (120° C.) and, after stirring for 12 minutes, cooled to room temperature. 5 N NaOH (15 mL) was added to the cooled reaction mixture. After diluting with icy water, the mixture was extracted with chloroform. The organic layer was dried with sodium sulfate and then filtered. The filtrate was concentrated. After diluting DMF remaining in the resulting residue again with chloroform and then washing with water, the aqueous layer was extracted again with chloroform. The organic layer was collected, dried with sodium sulfate, and then filtered. The filtrate was concentrated. The concentrated residue was subjected to the next step without further purification.

reactant | phosphorus oxychloride | 15.2 mmol, 1.4 mL | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | 1,2-dimethyl-5-phenyl-1H-pyrazol-3(2H)-one | 4.36 mmol, 820 mg | CN1N(C(C=C1C1=CC=CC=C1)=O)C | C11H12N2O
reactant | NaOH | 5 N, 15 mL | [OH-].[Na+]
reactant | DMF | 4.9 mL | CN(C)C=O | C3H7NO
reactant | N,N-Dimethylformamide | 43.6 mmol, 3.4 mL | CN(C=O)C | C3H7NO
solvent | water | O | H2O
product | 1,2-dimethyl-3-oxo-5-phenyl-2,3-dihydro-1H-pyrazole-4-carbaldehyde | CN1N(C(C(=C1C1=CC=CC=C1)C=O)=O)C | C12H12N2O2
